US08124807B2
(1) Production of N-(4-isopropoxyphenyl)-3-oxocyclohexanecarboxamide
4-Isopropoxyaniline (117 mg, 0.774 mmol), HATU (294 mg, 0.774 mmol) and diisopropylethylamine (0.27 mL, 1.548 mmol) were added in that order to a DMF (3 mL) solution of 3-oxo-1-cyclohexanecarboxylic acid (100 mg, 0.703 mmol), and stirred at room temperature for 5 hours. Ethyl acetate was added to the reaction liquid, and washed with distilled water and saturated brine. The organic layer was dried with magnesium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography to give the intended product (194 mg, 100%).

reactant | 4-Isopropoxyaniline | 0.774 mmol, 117 mg | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
reactant | HATU | 0.774 mmol, 294 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.548 mmol, 0.27 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-oxo-1-cyclohexanecarboxylic acid | 0.703 mmol, 100 mg | O=C1CC(CCC1)C(=O)O | C7H10O3
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-isopropoxyphenyl)-3-oxocyclohexanecarboxamide | 194 mg, 100% | C(C)(C)OC1=CC=C(C=C1)NC(=O)C1CC(CCC1)=O | C16H21NO3
